US05011683
(1-Methyl-(E)-2-pentenyl) triphenylphosphonium Bromide (Compound 8, R2 =CH3)
The compound was prepared from triphenylphosphine and 2-bromo-(E)-3-hexene, a compound which was reported previously (Bianchini and Guillemonat, 1968). Triphenylphosphine (1.6 g, 0.0061 mole) and 2-bromo-(E)-3-hexene (1.0 g, 0.0061 mole) were added to 10 ml dry acetonitrile and refluxed for 6 hr. The solvent was removed by rotary evaporation. The thick, sticky liquid product was stirred with dry ether 4 times, with the ether being decanted. After removing further traces of ether by rotary evaporation, the product was placed in a vacuum desiccator for 6 hr, where the product became a friable white solid (1.6 g, 61%).

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromo-(E)-3-hexene | BrC(C)\C=C\CC | C6H11Br
reactant | Triphenylphosphine | 0.0061 mole, 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromo-(E)-3-hexene | 0.0061 mole, 1.0 g | BrC(C)\C=C\CC | C6H11Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (1-Methyl-(E)-2-pentenyl) triphenylphosphonium Bromide | [Br-].CC(\C=C\CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26P.BrH/c1-3-4-14-21(2)25(22-15-8-5-9-16-22,23-17-10-6-11-18-23)24-19-12-7-13-20-24;/h4-21H,3H2,1-2H3;1H/q+1;/p-1/b14-4+;
